US05071999
5-Chloro-2-methyl-2,7-diazabicyclo[3.3.0]octane
9.3 g (40 mmol) of ethyl 5-chloro-2-methyl-2,7-diazabicyclo[3.3.0]octane-7-carboxylate are heated under reflux overnight with 50 ml of concentrated hydrochloric acid. The mixture is concentrated, the residue is taken up in 30 ml of water, and the mixture is rendered alkaline with potassium carbonate and extracted five times with 50 ml of chloroform each time. The extracts are dried over potassium carbonate and concentrated, and the residue is distilled.

reactant | ethyl 5-chloro-2-methyl-2,7-diazabicyclo[3.3.0]octane-7-carboxylate | 40 mmol, 9.3 g | ClC12CCN(C2CN(C1)C(=O)OCC)C | C10H17ClN2O2
solvent | hydrochloric acid | 50 ml | Cl | ClH
product | 5-Chloro-2-methyl-2,7-diazabicyclo[3.3.0]octane | ClC12CCN(C2CNC1)C | C7H13ClN2
